US08685969B2
1. 2-(Trimethylsilyl)ethyl 1H-indol-6-ylcarbamate
To a yellow, homogeneous solution of 1H-indol-6-amine (1.3007 g, 9.84 mmol) and DIPEA (2.58 mL, 14.76 mmol) in 1,4-dioxane (19.68 mL) under nitrogen was added 2,5-dioxopyrrolidin-1-yl 2-(trimethylsilyl)ethyl carbonate (2.81 g, 10.83 mmol) The reaction was stirred overnight, diluted with EtOAc (1500 mL), washed with water (3×50 mL) and brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo to give the desired product (2.666 g, 9.65 mmol, 98% yield) as a light tan solid.

reactant | 1H-indol-6-amine | 9.84 mmol, 1.3007 g | N1C=CC2=CC=C(C=C12)N | C8H8N2
reactant | DIPEA | 14.76 mmol, 2.58 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,5-dioxopyrrolidin-1-yl 2-(trimethylsilyl)ethyl carbonate | 10.83 mmol, 2.81 g | C(ON1C(CCC1=O)=O)(OCC[Si](C)(C)C)=O | C10H17NO5Si
solvent | 1,4-dioxane | 19.68 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 1500 mL | CCOC(=O)C | C4H8O2
product | 2-(Trimethylsilyl)ethyl 1H-indol-6-ylcarbamate | 9.65 mmol, 2.666 g, 98% yield | N1C=CC2=CC=C(C=C12)NC(OCC[Si](C)(C)C)=O | C14H20N2O2Si
